US09212175B2
A mixture of N-methyl-propargylamine (0.27 g) and benzyl 2-(oxetan-3-ylidene)acetate (0.41 g) was stirred neat at RT for 12 h. The excess amine was removed by evaporation to give benzyl 2-(3-(methyl(prop-2-ynyl)amino)oxetan-3-yl)acetate quantitatively (0.54 g).

reactant | N-methyl-propargylamine | 0.27 g | CNCC#C | C4H7N
reactant | benzyl 2-(oxetan-3-ylidene)acetate | 0.41 g | O1CC(C1)=CC(=O)OCC1=CC=CC=C1 | C12H12O3
product | benzyl 2-(3-(methyl(prop-2-ynyl)amino)oxetan-3-yl)acetate | CN(C1(COC1)CC(=O)OCC1=CC=CC=C1)CC#C | C16H19NO3
